US07312359B2
Powdered Zinc (66 g) was washed with 2% HCl, added to a solution of HgCl2 (6 g) in 50 mL of 6M HCl. This mixture was shaken vigorously for 5 minutes, and excess liquid was decanted. The mixture was then added to a mechanically stirred suspension of 4-oxo-4-(4-phenylsulfanyl-phenyl)-butyric acid (6.5 g, 22.7 mmol) in 450 mL of 6M HCl, and the reaction mixture was stirred at room temperature for 5 days. The mixture was then decanted to remove excess HCl, and quenched by addition of 250 mL water. The aqueous mixture was extracted three times with 100 mL of EtOAc, and the combined organic layers were dried under reduced pressure to yield 5.0 g (18.4 mmol, 81%) of 4-(4-phenylsulfanyl-phenyl)-butyric acid as a crude solid. MS: 273 (M+H)+.

reactant | 4-oxo-4-(4-phenylsulfanyl-phenyl)-butyric acid | 22.7 mmol, 6.5 g | O=C(CCC(=O)O)C1=CC=C(C=C1)SC1=CC=CC=C1 | C16H14O3S
solvent | HCl | 6M, 450 mL | Cl | ClH
product | 4-(4-phenylsulfanyl-phenyl)-butyric acid | 18.4 mmol, 5.0 g, 81% | C1(=CC=CC=C1)SC1=CC=C(C=C1)CCCC(=O)O | C16H16O2S
